US08084448B2
B. 5-[2-Hydroxy-4-(3,3,3-trifluoropropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
The title compound is prepared from 5-[2-benzyloxy-4-(3,3,3-trifluoropropyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one analogous to Example 292, steps B and C with the modification that Pd(OH)2 is used as the catalyst in the reduction step: (M−1)−=323.

reactant | 5-[2-benzyloxy-4-(3,3,3-trifluoropropyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)CCC(F)(F)F)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C23H29F3N2O4SSi
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
product | 5-[2-Hydroxy-4-(3,3,3-trifluoropropyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | OC1=C(C=CC(=C1)CCC(F)(F)F)N1CC(NS1(=O)=O)=O | C11H11F3N2O4S
